US07560468B2
Preparation of 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-thiocarboxylic acid phenylamide
Phenyl isothiocyanate (203 mg, 1.50 mmol) was added to a solution of 1,3-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one (505 mg, 1.50 mmol) in toluene (14.3 ml) with stirring under a blanket of nitrogen at RT and the reaction mixture was stirred at 50° C. for 8 h. After removal of the solvent, the desired product 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-thiocarboxylic acid phenylamide was obtained by means of preparative HPLC.

reactant | Phenyl isothiocyanate | 1.50 mmol, 203 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 1,3-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one | 1.50 mmol, 505 mg | C(C1=CC=CC=C1)N1C(C(NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
solvent | toluene | 14.3 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-thiocarboxylic acid phenylamide | C1(=CC=CC=C1)NC(=S)N1CCC2(NC(C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | C28H30N4OS
